US07220862B2
3-Benzo[b]thiophen-3-yl-acrylic acid
A suspension of 1-benzothiophene-3-carbaldehyde (4.9 g, 0.03 mol), malonic acid (6.6 g, 0.06 mol) and piperidine (1 mL) in 100 mL anhydrous pyridine was heated at 110° C. overnight. The reaction mixture was cooled to room temperature and the solvent was removed in vacuo. The residue was taken up in 100 mL of water and 1 N hydrochloric acid was added to adjust the pH of this solution to ca. 3. The suspension was filtered and the yellow solid was collected, washed with water (3×50 mL) and concentrated in vacuo to give the indicated product with 95% purity (5.65 g, 91%).

reactant | 1-benzothiophene-3-carbaldehyde | 0.03 mol, 4.9 g | S1C=C(C2=C1C=CC=C2)C=O | C9H6OS
reactant | malonic acid | 0.06 mol, 6.6 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 1 mL | N1CCCCC1 | C5H11N
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 3-Benzo[b]thiophen-3-yl-acrylic acid | S1C2=C(C(=C1)C=CC(=O)O)C=CC=C2 | C11H8O2S
